US04451673
Tripropylsilylethyl Diphenyl Phosphine
The vinyl tripropyl silane was then reacted with diphenyl phosphine with u.v. initiation for 86 hours in a manner described in the previous example. The conversion was about 95%. The mixture was fractionally distilled to yield the pure product as a clear, colorless, mobile liquid (see Table I.)

reactant | vinyl tripropyl silane | C(=C)[Si](CCC)(CCC)CCC | C11H24Si
reactant | diphenyl phosphine | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
product | Tripropylsilylethyl Diphenyl Phosphine | C(CC)[Si](CCC)(CCC)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C23H35PSi
